US07176216B2
To a suspension of 2-methylthio-3-nitropyrazolo[1,5-a]pyridine (Reference; Heterocycles, 1977, 6, 379) (400 mg) in ethanol (20 mL), water (10 mL), acetic acid (2 mL) was added zinc powder (800 mg) and the reaction mixture was heated and stirred for 30 minutes at 80° C. The insoluble residue was filtered out, water was added to the filtrate and extraction was performed with ethyl acetate, and then the organic extract was washed with saturated aqueous sodium bicarbonate and brine. The organic extract was dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure to afford (2-methylthiopyrazolo[1,5-a]pyridin-3-yl)amine as a crude product.

reactant | 2-methylthio-3-nitropyrazolo[1,5-a]pyridine | 400 mg | CSC1=NN2C(C=CC=C2)=C1[N+](=O)[O-] | C8H7N3O2S
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 800 mg | [Zn] | Zn
product | (2-methylthiopyrazolo[1,5-a]pyridin-3-yl)amine | CSC1=NN2C(C=CC=C2)=C1N | C8H9N3S
